US04017522
N-methyl-N-(2-palmitoyloxyethyl)benzamide
N-methyl-N-(2-palmitoyloxyethyl)benzamide was prepared by the procedure of example 1 from 18 gms. (0.1 mole) of N-methyl-N-(2-hydroxyethyl)benzamide and 26 gms. (0.1 mole) of palmitoyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N-methyl-N-(2-hydroxyethyl)benzamide | 0.1 mole | CN(C(C1=CC=CC=C1)=O)CCO | C10H13NO2
reactant | palmitoyl chloride | 0.1 mole | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
product | N-methyl-N-(2-palmitoyloxyethyl)benzamide | CN(C(C1=CC=CC=C1)=O)CCOC(CCCCCCCCCCCCCCC)=O | C26H43NO3
